US04435403
A mixture of 3.3 g of 3-hydroxymethyl-beta-carboline, 300 ml of water-free pyridine and 9.9 g of lead tetra-acetate is heated in an oil bath for 4 h at about 80° C. After cooling and evaporation, 150 ml of water is added. The crystalline residue is filtered off, washed with a 5% aqueous potassium carbonate solution and then again with water. The air-dried product (3.5 g) is boiled in 0.7 liters of 2-propanol with activated carbon and is filtered hot. After evaporation, 2.7 g of beta-carboline-3-carboxaldehyde is obtained, with a melting point of 270° C. (decomposition).

reactant | 3-hydroxymethyl-beta-carboline | 3.3 g | OCC=1N=CC=2NC3=CC=CC=C3C2C1 | C12H10N2O
reactant | lead tetra-acetate | 9.9 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | water | 300 ml | O | H2O
product | beta-carboline-3-carboxaldehyde | 2.7 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C=O | C12H8N2O
